### PR TITLE
Backport math-comp/analysis#779

### PR DESCRIPTION
**Pull request by proux01**
##### Motivation for this change

Backport math-comp/analysis#779

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Review by CohenCyril — COMMENTED** [review]
I approve, but I'm also a contributor to the backported code, so I'd rather have someone else approve formally. @thery @affeldt-aist @ybertot any volunteer?

**Comment by proux01** [comment]
> PS: BTW @proux01 maybe there should be a Co-Authored-By crediting me, @affeldt-aist and IshiguroYoshihiro and Takafumi Saikawa ?

Indeed, done

File: mathcomp/ssreflect/bigop.v [hunk 1]
```diff
@@ -2143,6 +2185,117 @@ Arguments big_nat_recr [R idx op].
...
+    uniq (filter P s) -> uniq (filter P' s') ->
+    {subset [seq i <- s | P i] <= [seq i <- s' | P' i]} ->
+  le (\big[op/x]_(i <- s | P i) F i) (\big[op/x]_(i <- s' | P' i) F i).
+Proof. by move=> u u' /(uniq_sub_big xpredT F u u'); rewrite !big_filter. Qed.
+
+Section Id.
+
+Hypothesis opK : idempotent op.
+
+Lemma sub_big_idem (I : eqType) s s' P (F : I -> R) :
```
Comment (affeldt-aist) [inline mathcomp/ssreflect/bigop.v:2238]: Shouldn't this be `idem_sub_big` following the pattern of `uniq_sub_big`?

File: mathcomp/ssreflect/bigop.v [hunk 2]
```diff
@@ -2143,6 +2185,117 @@ Arguments big_nat_recr [R idx op].
...
+    {subset s <= s'} ->
+  le (\big[op/x]_(i <- s | P i) F i) (\big[op/x]_(i <- s' | P i) F i).
+Proof.
+move=> ss'; rewrite -big_undup_AC// -[X in le _ X]big_undup_AC//.
+by rewrite uniq_sub_big ?undup_uniq// => i; rewrite !mem_undup; apply: ss'.
+Qed.
+
+Lemma sub_big_idem_cond (I : eqType) s s' P P' (F : I -> R) :
```
Comment (affeldt-aist) [inline mathcomp/ssreflect/bigop.v:2246]: Same comment as for `idem_sub_big`.

**Review by affeldt-aist — APPROVED** [review]
I browsed the changes and only had one comment.
I found that some lemmas have very short names such as `subset_big`.
When looking for this lemma for example I could have been tempted to
include the substring `le` in my `Search` command. Would it make sense
to have a bit longer but more informative name? Maybe it is for usage to say.

File: mathcomp/ssreflect/bigop.v [hunk 3]
```diff
@@ -2143,6 +2185,117 @@ Arguments big_nat_recr [R idx op].
...
+  by rewrite -opA [op y x]opC opA op_incr.
+by rewrite opC op_incr.
+Qed.
+
+Lemma sub_big_seq (I : eqType) s s' P (F : I -> R) :
+  (forall i, count_mem i s <= count_mem i s')%N ->
+  le (\big[op/x]_(i <- s | P i) F i) (\big[op/x]_(i <- s' | P i) F i).
+Proof.
+rewrite !(big_ACE opA opC) => /count_subseqP[_ /subseqP[m sm->]]/(perm_big _)->.
+by rewrite big_mask big_tnth// -!(big_ACE opA opC) sub_big// => j /andP[].
```
Comment (ybertot) [inline mathcomp/ssreflect/bigop.v]: First instance of // here is useless and can be removed.

**Comment by proux01** [comment]
> I found that some lemmas have very short names such as `subset_big`. When looking for this lemma for example I could have been tempted to include the substring `le` in my `Search` command. Would it make sense to have a bit longer but more informative name?

@affeldt-aist  I tend to agree, I added `le_` in bigop lemmas were it was absent. Does that feel better?

**Comment by proux01** [comment]
> There are two pending comments, but they are probably the same. The UI does not let me see them.

Here, I can click on "show resolved" on the right to expand them.

**Review by ybertot — CHANGES_REQUESTED** [review]
I think the name big_ACE is badly chosen.  This is a technical lemma, mainly useful as an intermediate step to reason about bigmin and bigmax, it lifts a plain big operation to the same big operation on an option type, with the benefit that the new big operation will benefit from all the existing material on communtative monoid laws.

Because it is a technical lemma, the name does not need to be short.  On the other hand, because it introduces quite a lot of complexity, it should be more informative.

suggestion `big_AC_lift_option`

**Comment by ybertot** [comment]
After discussion in a developer meeting, we chose to support a name with suffix "_mk_monoid", so the best name seems to be `big_AC_mk_monoid`

**Comment by proux01** [comment]
Thanks, done

**Comment by affeldt-aist** [comment]
> > I found that some lemmas have very short names such as `subset_big`. When looking for this lemma for example I could have been tempted to include the substring `le` in my `Search` command. Would it make sense to have a bit longer but more informative name?
> 
> @affeldt-aist I tend to agree, I added `le_` in bigop lemmas were it was absent. Does that feel better?

Yes, I think it is better this way.

**Comment by thery** [comment]
I have a naive question : why big is not defined in such a way that 
`big[+%/0]_(i <-  [::x1, .... xn]) f i` is not simply ` (f x1 + (f x2 + .. f xn)) `  and 
`big[+%/0]_(i <-  [::]) f i` is `0.` 
It would make all this trick about big_max not necessary.

**Comment by CohenCyril** [comment]
> I have a naive question : why big is not defined in such a way that
> `big[+%/0]_(i <- [::x1, .... xn]) f i` is simply `(f x1 + (f x2 + .. f xn))` and
> `big[+%/0]_(i <- [::]) f i` is `0.`
> It would make all this trick about `big_max` not necessary.

It might change lots of other behaviours in the non semi-group case ... We should try though.

**Comment by proux01** [comment]
> It might change lots of other behaviours in the non semi-group case ... We should try though.

Even in the non monoid case? But since many lemmas address the monoid case, this might be bearable, I agree we should try.

Isn't this point relatively orthogonal to that PR though?

**Comment by CohenCyril** [comment]
@thery we tested briefely with @affeldt-aist, the new definition would invalidate `big_rec2` and `big_rec3` which have many occurrences, we did not push the experiment forward. AFAIU this changes too much the behaviour of bigop for non-monoids.
CC @ggonthier

**Comment by thery** [comment]
The only drawback I see is that we don ´t have `big[+%/0]_(i <-  x :: l)  f i = f x + big[+%/0]_(i <- l) f i` anymore.

**Comment by proux01** [comment]
It also seem we would loose `big_rec`.

**Review by ybertot — APPROVED** [review]
LGTM

**Comment by thery** [comment]
So it was a bad idea, I have learned something today
